Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Prednisone
 
Attending: ___.
 
Chief Complaint:
Palpitations, diaphoresis
 
Major Surgical or Invasive Procedure:
___: Biopsy of retroperitoneal mass by ___ under 
fluoroscopic guidance  

 
History of Present Illness:
History of Present Illness: This is a ___ YO M CAD, chronic, 
likely diastolic CHF who is representing to the ED after 
presenting with diaphoresis, nausea, presyncope at rehab.  After 
being recently discharged from ___, while at rehab, he was 
sitting in his wheelchair when he developed diaphoresis at rest. 
 He did have a bowel movement about half hour prior to event.  
Diaphoresis was associated with nausea and feeling of confusion. 
 Experienced chest palpitations.  Unclear if Mr ___ lost 
consciousness; denies any loss of stool or urine.  Discomfort 
lasted about 10 minutes and then resolved; has not recurred. 
Most recently he was admitted to the hospital on ___ 
after being pushed down the stairs; he also had fevers and 
chills at that point and was found to be hypotensive and in 
renal failure.  He was transferred to the MICU briefly for 
management; his hypotension was fluid responsive, his renal 
failure responded to fluids.  He was started on vancomycin and 
levoquin for pneumonia and was ruled out for influenza.  
.
In the ED one set of cardiac enzymes were obtained.  UA was done 
which was positive and urine cultures were sent.  Aspirin was 
given.  Chest X-ray was obtained which showed improving 
bibasilar infiltrate compared to prior images.  EKG showed new 
afib, rate controlled, with old T wave inversions (I, aVL, V5, 
V6).  Lower extremity dopplers obtained which were negative.  
His vitals in the ED were 84 112/75, 16, 96% RA.
 
Past Medical History:
1) HTN  
2) DM - diet controlled, with neuropathy  
3) CAD s/p MI ___ s/p CABG in ___ with multiple CHF  
hospitalizations since then.  
4) CHF  
5) etoh abuse  
6) Gout  
7) CRI, baseline Cr 1.2; per patient ___ longterm NSAID use  

 
Social History:
___
Family History:
Significant for grandmother with CHF. 
 
Physical Exam:
Physical Exam:  98.9, 121/77, 74, 29, 96% RA
Gen: Sitting up in bed in NAD
Card: Irregular rhythm, no extrasystolic HS
Resp: lungs CTAB
Abd: soft NT ND
Ext: no ___ edema
Neuro: no focal deficits
 
Pertinent Results:
Electrolytes:
GLUCOSE-117* UREA N-18 CREAT-1.4* SODIUM-141 POTASSIUM-3.8 
CHLORIDE-103 TOTAL CO2-25 ANION GAP-17
.
Urine analysis:
URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 GLUCOSE-NEG KETONE-TR 
BILIRUBIN-SM UROBILNGN-8* PH-7.0 LEUK-TR
___ BACTERIA-RARE YEAST-NONE EPI-0
.
CARDIAC ENZYMES:
CK-MB-2 cTropnT-<0.01
cTropnT-<0.01
cTropnT < 0.01
.
CEA: < 1
PSA 0.9
___: pending
.
EKG: Atrial fibrillation. Left axis deviation may be due to left 
anterior 
fascicular block, although it is non-diagnostic. Anterior 
myocardial  
infarction of indeterminate age but it may be old. Anterolateral 
lead 
ST-T wave abnormalities are non-specific but cannot exclude 
ischemia. 
Clinical correlation is suggested. Since the previous tracing of 
___ 
right precordial lead T wave changes appear less prominent but 
there may be no significant change. 
.
Abd/pelvis CT:
IMPRESSION: 
1. Large conglomerate retroperitoneal lymphadenopathy along with 
bilateral 
common and external iliac lymphadenopathy with mediastinal 
lymphadenopathy and right hilar lymphadenopathy raise concern 
for the lymphoma. 
2. Bilateral ground-glass opacity, increased interstitial 
markings in the 
right lung and micronodular lesions bilaterally, also concerning 
for 
lymphangitic spread. 
3. 4.7 cm lesion in the interpolar region of the right kidney 
likely also 
represents lymphoma. (please note that the pattern of lymph 
adenopathy is 
unusual for metastases from renal cell carcinoma) 
4. Spleen is elongated, measuring 16.9 cm. 
.
ECHO: The left atrium is dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal regional and global biventricular systolic 
function. No pathologic valvular abnormality seen.  
.

 
Brief Hospital Course:
1. Fevers/Neoplastic Process: Differential initially broad 
encompassing hospital acquired pneumonia versus neoplastic 
process.  A subacute neoplastic process is more likely given 
several weeks-months of night sweats, malaise, and fevers with 
finding of extensive retroperitoneal and mediastinal adenopathy 
on CT.  Other possibly pertinent symptoms include note of 
intermittent hematuria, intermittent abdominal discomfort.  
Other laboratory findings of note: anemia, microscopic 
hematuria, ESR > 100, CRP > upper limit of assay.  Preliminary 
staining is suggestive of a carcinoma given findings of 
organizing tubular structures seen on microscopy.  The type of 
carcinoma is still under review but some stains are suggestive 
of renal cell carcinoma.  CT suggests there is a renal nodule 
that is less likely to be renal cell. At this point, we have 
told Mr ___ that the culmination of our studies so far suggest 
that he likely has an underlying carcinoma leading to his 
constellation of symptoms, however this is not definitive, and 
if it is a carcinoma, we don't yet have a finalized primary 
source.  According to pathology, it should take an additional 
week or so before the pathology report is finalized.  He was set 
up for a primary care appointment with me on ___, and I emphasized the importance of follow-up.  
.
While he was in the hospital, we also evaluated other sources of 
fever.  A chest x-ray revealed a multifocal pneumonia.  Given 
his recent hospitalization, we treated this as a hospital 
acquired pneumonia with an 8 day course of vancomycin and 
cefepime and covered him with azithromycin for a 7 day course 
for the possibility of atypicals.  His cough slowly improved 
over the course of his hospitalization and his fevers trended 
down.  He did not have any leukocytosis during the course of his 
hospitalization.  At time of discharge, he was afebrile for > 48 
hours and his antibiotics course was complete. 
.
2) Atrial fibrillation: Was found to be in new onset atrial 
fibrillation in ED.  Unclear what precipitant of afib could be; 
could be secondary to recent pneumonia/infection. Also has 
significant mediastinal adenopathy; could represent infiltrative 
or compressive process creating an irritant focus.  Had no RVR; 
rates were 70 - 80.  CHADS score was +3.  Coumadin was started 
with goal INR near 2.  Carvedilol was continued at dose of 12.5 
mg BID.  He was discharged and set up with ___ 
clinic. He was discharged with a ___ mg alternating dose 
coumadin regimen.
.
3) Acute on Chronic renal failure: Creatinine was initially 
elevated on presentation, however her electrolytes were 
consistent with prerenal disease.  Following administration of 
fluids, his creatinine resolved to below her baseline. 
.
4) Coronary artery disease:  Troponin levels were checked on 
admission and were negative.  He was continued on his statin, 
aspirin, beta blocker and Ace inhibitor.  His lisinopril was 
held as this tended to precipitously decrease his blood pressure 
< 80 systolic.  At time of discharge, his lisinopril continued 
to be held.
.
5) Congestive heart failure: There was no evidence for fluid 
overload; there were no rales on lung exam.  His JVP was not 
elevated.  He has unilateral 1+ left lower extremity edema; he 
was continued on lasix 80 mg daily.  
.
6) Left ankle pain: Differential is gout vs trauma from recent 
fall.  Mild inflammatory changes seen along left foot (erythema, 
decreased range of motion, mildly warm).  Started on colchicine 
with improvement in symptoms.  Has crystal proven gout last year 
after left ankle joint was tapped.  Was discharged with a 3 day 
continued supply of colchicine.   
.
7) Dispo:  Was discharged to assisted living facility after 
cleared by physical therapy.  Appointments were set up with 
primary care and is being followed by ___ clinic.  
 
Medications on Admission:
Aspirin 325 mg PO Daily   
Citalopram 20mg PO daily  
Carvedilol 12.5 mg PO BID   
Omperazole 40mg PO daily  
Simvastatin 80mg PO Daily 
Clonzaepam 1mg PO TID  
Trazodone 100mg PO QHS PRN   
Colchicine 0.6mg PO Daily PRN Gout 
Lisinopril 40mg PO Daily  
Lasix 80mg PO daily 
Ferrous Sulfate 325mg PO daily  
NTG 0.3mg SL PRN  .
MVI 1 Tab PO Daily  .
Thiamine 100mg PO Daily .  
Folate 1mg PO Daily  
Acet 325mg PO Q6 PRN Pain . 
Oxycodone 10 mg q6-8 hrs PRN .
Lidoderm 5% adhesive patch topical 12 hrs on 12 hrs off
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
7. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime) 
as needed for insomnia.  
8. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
12. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
13. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day: 
two tablets daily at 4PM or as directed by your physician or 
clinic.
Disp:*60 Tablet(s)* Refills:*2*
14. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual PRN as needed for chest pain.  
15. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*3 Tablet(s)* Refills:*0*
16. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO every ___ hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
17. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for shortness 
of breath.
Disp:*1 1* Refills:*0*
18. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
19. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
20. Maalox 200-200-20 mg/5 mL Suspension Sig: ___  PO PRN as 
needed for pain.
Disp:*1 1* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. New onset atrial fibrillation
2. Urinary tract infection
3. Coronary disease
4. Congestive heart failure

 
Discharge Condition:
Stable for rehab facility.  Saturating well on room air.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure caring for you while you were at ___ 
___.  As you know, the result of some of our studies are 
concerning for a cancer diagnosis, however we do not yet have 
enough information to suggest what kind of cancer you may have.  
In the coming weeks, these results should become clearer, and 
this will help us to develop a plan.  You are not alone in this 
challenge; there will be several doctors who ___ be 
participating in your care.  The most important things for you 
will be to keep your mind and body as healthy as you can so that 
you can put your best foot forward.  You will be followed by me 
in primary care so that I can coordinate all of your care in the 
coming months.  Following up with all of your appointments is 
one of your most important priorities.
.
I've explained some of the important points of your 
hospitalization at ___ below:
(1) When you came into the hospital, you had symptoms of fevers, 
cough, and night sweats.  A lot of these symptoms could be 
because of the possibility of cancer.  However, when we did a 
chest x-ray, we found that you also had a pneumonia in your 
lungs.  This could explain some of your symptoms.  We started 
you on antibiotics for 8 days which led to improvement in your 
cough and fevers.  
(2) While you were hospitalized we found that your heart was 
beating irregularly in a rhythm that we call atrial 
fibrillation.  This can happen when you have an underlying 
infection like pneumonia.  Sometimes this heart rhythm can lead 
to formations of a clot in your heart which can increase your 
risk of stroke.  To help treat this, we started you on a 
medicine called coumadin, which helps to thin the blood.  This 
medicine will require frequent monitoring of your labs and your 
assisted living facility will help draw these.  It is important 
that you take this medicine daily as directed to ensure that you 
do not develop a clot.
(3) While you were here you also developed pain in your left 
foot that we felt was consistent with gout.  We started you on 
colchicine which helped your pain and also increased your pain 
medicine.  You will have enough colchicine for another three 
days to continue to treat your gout.  
.
We made the following medication changes to your usual meds that 
are summarized below:
(1) You should take coumadin (the blood thinner) 5 mg every 
___ and ___, and 2.5mg on ___, 
___ and ___. This dose may be adjusted after we check 
your blood. The ___ lab will be checking your 
blood at your assisted living facility on ___. 
From then on you will get labs checked every week so that your 
dose can be adjusted appropriately.
(2) You should stop taking lisinopril, a blood pressure medicine 
that was decreasing your blood pressure too much.  You can 
restart this as an outpatient as directed by your outpatient 
team.
(3) You should take colchicine 0.6 mg daily for another 3 days 
after you leave the hospital.
(4) You should take oxycodone 10 mg as needed every six hours 
for pain.  
(5) You can use your albuterol inhaler ___ puffs as needed for 
wheezing and shortness of breath.
(6) You can take maalox as needed for your stomach pain.
.
If you experience worsening fevers, diaphoresis, vomiting, 
worsening cough, worsening blood in your urine, or any other 
concerning symptoms, please let your primary care doctor know or 
return to the emergency department.  
 
Followup Instructions:
___